US05519029
Under a nitrogen atmosphere a solution of 2-(dimethylaminoethyl)hydrazine (J. Med. Chem. 7, 493, 1964) (1.86 g) in anhydrous THF (6.0 mL) is added during 30' to the stirred 9:1 mixture of 9-fluoro-6-(p-toluenesulfonyloxy)benzo[g]isoquinoline-5,10-dione and 9-chloro-6-(p-toluenesulfonyloxy)benzo[g]isoquinoline-5,10-dione of Preparative Example 10b (2.4 g) in THF (24 mL) containing N,N-diisopropylethylamine (1.10 mL). A slightly exothermic reaction ensues, and the reaction temperature increases from 20° C. to 25° C. After one hour at room temperature the reaction mixture is poured in water (240 mL) and the suspension obtained is stirred for 30'. The solid is separated by suction, washed with water and dried at 40° C. to give 2-[2-(dimethylamino)ethyl)]-5-(p-toluenesulfonyloxy)isoquino[8,7,6-cd]indazole-6(2H)-one (1.44 g).

reactant | 2-(dimethylaminoethyl)hydrazine | 1.86 g | CN(C)CCNN | C4H13N3
reactant | 9-fluoro-6-(p-toluenesulfonyloxy)benzo[g]isoquinoline-5,10-dione | FC1=CC=C(C=2C(C=3C=CN=CC3C(C21)=O)=O)OS(=O)(=O)C2=CC=C(C=C2)C | C20H12FNO5S
reactant | 9-chloro-6-(p-toluenesulfonyloxy)benzo[g]isoquinoline-5,10-dione | ClC1=CC=C(C=2C(C=3C=CN=CC3C(C21)=O)=O)OS(=O)(=O)C2=CC=C(C=C2)C | C20H12ClNO5S
reactant | N,N-diisopropylethylamine | 1.10 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
solvent | THF | 24 mL | C1CCOC1 | C4H8O
solvent | water | 240 mL | O | H2O
product | 5-(p-toluenesulfonyloxy)isoquino[8,7,6-cd]indazole-6(2H)-one | 1.44 g | C1(=CC=C(C=C1)S(=O)(=O)OC1=C2C=3C(=NNC3C=C1)C=1C=NC=CC1C2=O)C | C20H13N3O4S
